US06908913B2
Under an argon atmosphere at −30° C., N,N-diisopropylethylamine (0.343 ml) was added dropwise to a solution of 474 mg of 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate in 13 ml of dry acetonitrile, and 0.218 ml of anhydrous trifluoromethanesulfonic acid was then added dropwise thereto. The mixture was stirred at that temperature for 30 min. Ethyl acetate (30 ml) was then added thereto, followed by washing with semisaturated brine, a mixed solution (pH 1.1) composed of semisaturated brine and a 1 N aqueous hydrochloric acid solution, a mixed solution (pH 8.9) composed of semisaturated brine and a saturated aqueous sodium bicarbonate solution, and semisaturated brine in that order. The organic layer was then dried over anhydrous magnesium sulfate and was filtered. The solvent was removed by distillation under the reduced pressure. The residue was dissolved in 6 ml of dry N-methylpyrrolidinone to prepare a solution. Tri-2-furylphosphine (37 mg), 343 mg of zinc chloride, 37 mg of tris(dibenzylideneacetone)dipalladium(0), and 712 mg of 7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole were added to the solution, and the mixture was stirred at 50° C. under an argon atmosphere for 2 hr. Ethyl acetate (30 ml) and 15 ml of a semisaturated aqueous sodium bicarbonate solution were added to the reaction solution, the mixture was stirred, and the insolubles were removed by filtration. The organic layer was separated from the filtrate, was washed three times with 20 ml of semisaturated brine, and was dried over anhydrous magnesium sulfate. The solvent was removed by distillation under the reduced pressure, and the residue was purified by column chromatography on silica gel (dichloromethane:methanol=20:1 →10:1) to give 388 mg of 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate.

reactant | N,N-diisopropylethylamine | 0.343 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 4-nitrobenzyl (1R,3R,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 474 mg | O[C@H](C)[C@@H]1[C@@H]2N([C@H](C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | trifluoromethanesulfonic acid | 0.218 ml | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | Tri-2-furylphosphine | 37 mg | O1C(=CC=C1)P(C=1OC=CC1)C=1OC=CC1 | C12H9O3P
reactant | 7-(pyridin-3-yl)carbonyl-2-(tri-n-butylstannyl)imidazo[5,1-b]thiazole | 712 mg | N1=CC(=CC=C1)C(=O)C=1N=CN2C1SC(=C2)[Sn](CCCC)(CCCC)CCCC
reactant | sodium bicarbonate | 15 ml | C([O-])(O)=O.[Na+]
solvent | acetonitrile | 13 ml | C(C)#N | C2H3N
catalyst | zinc chloride | 343 mg | [Cl-].[Zn+2].[Cl-]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 37 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | Ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-nitrobenzyl (1S,5R,6S)-6-((1R)-1-hydroxyethyl)-1-methyl-2-[7-(pyridin-3-yl)carbonylimidazo[5,1-b]thiazol-2-yl]-1-carbapen-2-em-3-carboxylate | 388 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(=C([C@@H]2C)C2=CN3C(S2)=C(N=C3)C(=O)C=3C=NC=CC3)C(=O)OCC3=CC=C(C=C3)[N+](=O)[O-])C1=O | C28H23N5O7S
